US05750526
a) 1-(2,2,2-Trichloroethoxycarbonyl)-6-trifluoromethyl-1,2-dihydroquinoline-2-phosphonic acid diethyl ester
41.4 g of 6-trifluoromethylquinoline is introduced into 250 ml of acetonitrile at 0° C. 29 ml of chloroformic acid-2,2,2-trichloroethyl ester is rapidly instilled and the mixture is stirred for 30 minutes. 36.4 ml of triethylphosphite is instilled and 49.8 g of sodium iodide is added in portions. It is heated for 10 minutes to 50° C., the solution is concentrated by evaporation, mixed with 400 ml of water and extracted four times with 400 ml of ethyl acetate each. The crude product is purified by column chromatography and recrystallized from isopropyl ether.

reactant | 6-trifluoromethylquinoline | 41.4 g | FC(C=1C=C2C=CC=NC2=CC1)(F)F | C10H6F3N
reactant | chloroformic acid-2,2,2-trichloroethyl ester | 29 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | triethylphosphite | 36.4 ml | C(C)OP(OCC)OCC | C6H15O3P
reactant | sodium iodide | 49.8 g | [I-].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-(2,2,2-Trichloroethoxycarbonyl)-6-trifluoromethyl-1,2-dihydroquinoline-2-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1N(C2=CC=C(C=C2C=C1)C(F)(F)F)C(=O)OCC(Cl)(Cl)Cl | C17H18Cl3F3NO5P
